US03998958
The hydrochloride salt of 1-ethyl-2-iminopyrrolidine (7.43 g.; 0.05 mole) is converted to free base (5.6 g.; 0.05 mole) by adding 7 ml. of 50% NaOH to an aqueous slurry (minimal amount of water) of the salt and benzene extraction. After drying over K2CO3, the benzene solution is stirred at room temperature and 7.68 g. (0.05 mole) of m-chlorophenylisocyanate, dissolved in anhydrous benzene, is added. The reaction mixture is stirred for 13/4 hours and the solvent is then evaporated in vacuo leaving a solid residue, 1-m-chlorophenyl-3-(1-ethyl-2-pyrrolidylidene)urea. Recrystallizations from ethyl acetate yields the pure product, m.p. = 122°-124° C.

reactant | 1-ethyl-2-iminopyrrolidine | 0.05 mole, 7.43 g | C(C)N1C(CCC1)=N | C6H12N2
reactant | m-chlorophenylisocyanate | 0.05 mole | ClC=1C=C(C=CC1)N=C=O | C7H4ClNO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-m-chlorophenyl-3-(1-ethyl-2-pyrrolidylidene)urea | ClC=1C=C(C=CC1)NC(=O)N=C1N(CCC1)CC | C13H16ClN3O
